US07220773B2
Preparation for 2-(3-hydroxyphenyl)ethanol
To a solution of 3-hydroxyphenylacetic acid (3.04 g, 20.0 mmol) in tetrahydrofuran (30 ml) was added at 0° C. borane-tetrahydrofuran complex (1M, 30.0 ml, 30.0 mmol) under an atmosphere of nitrogen. The mixture was stirred for 1 hour, followed by addition of water and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated to give the subject compound (2.76 g, 100%).

reactant | 3-hydroxyphenylacetic acid | 20.0 mmol, 3.04 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(3-hydroxyphenyl)ethanol | 2.76 g, 100% | OC=1C=C(C=CC1)CCO | C8H10O2
